US09062070B2
To a 1 L 3-neck flask equipped with overhead stirrer was added crude 5-(1-butoxy-vinyl)-4-methyl-3H-isobenzofuran-1-one (55.8 g) and THF (315 mL). The solution was cooled to <5° C. after which water (79 mL) was added and the solution was maintained at <5° C. NBS (41.6 g) was then added portionwise while maintaining Tmax=19° C. The solution was then warmed to RT for 30 minutes. HBr (48%, 0.241 mL) was added and the reaction was aged at RT for approximately 1 h after which 236 mL water was then added to the batch. A water bath is used to maintain temp at 20° C. Another 315 mL of water was added (solvent composition 1:2 THF:water) and the slurry was cooled to 15° C. The resulting solids were filtered and washed with cold 1:2 THF:water (15° C.): 150 mL displacement wash followed by 100 mL slurry wash. The solids were dried under vacuum at RT to provide 5-(2-bromo-acetyl)-4-methyl-3H-isobenzofuran-1-one.

reactant | 5-(1-butoxy-vinyl)-4-methyl-3H-isobenzofuran-1-one | 55.8 g | C(CCC)OC(=C)C=1C(=C2COC(C2=CC1)=O)C | C15H18O3
reactant | NBS | 41.6 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | HBr | 0.241 mL | Br | BrH
solvent | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
solvent | water | 315 mL | O | H2O
solvent | water | 236 mL | O | H2O
solvent | water | 79 mL | O | H2O
solvent | THF | 315 mL | C1CCOC1 | C4H8O
product | 5-(2-bromo-acetyl)-4-methyl-3H-isobenzofuran-1-one | BrCC(=O)C=1C(=C2COC(C2=CC1)=O)C | C11H9BrO3
